US09212165B2
Step 3: 3-chloro-N-(3-formyl-1-adamantyl)benzamide
To a solution of 3-chloro-N-[3-(hydroxymethyl)-1-adamantyl]benzamide (200 mg, 0.63 mmol) in DCM (15 mL) was added PCC (200 mg, 0.93 mmol) in one portion and the reaction mixture was stirred at room temperature for two hours. The reaction mixture was then filtered through a pad of silica gel and the filtrate was concentrated under reduced pressure to give 200 mg (100%) of crude title compound, 3-chloro-N-(3-formyl-1-adamantyl)benzamide, as a brown oil. ESI-MS m/z: 318 (M+H)+.

reactant | 3-chloro-N-[3-(hydroxymethyl)-1-adamantyl]benzamide | 0.63 mmol, 200 mg | ClC=1C=C(C(=O)NC23CC4(CC(CC(C2)C4)C3)CO)C=CC1 | C18H22ClNO2
reactant | PCC | 0.93 mmol, 200 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-N-(3-formyl-1-adamantyl)benzamide | 200 mg, 100% | ClC=1C=C(C(=O)NC23CC4(CC(CC(C2)C4)C3)C=O)C=CC1 | C18H20ClNO2
